US05164402
1 5-Benzyl-1,3a,4,5,6,6a-hexahydro-4,6-dioxopyrrolo [3,4-c]pyrazole-3-carboxylic acid, ethyl ester
Ethyl diazoacetate (13 g, 114 mmol) in diethyl ether (100 ml) was added dropwise to a solution of N-benzylmaleimide (10 g, 53 mmol) in diethyl ether (250 ml). The resulting mixture was allowed to stir for 18 hours; the solvent was then removed in vacuo, and the resulting residue partitioned between methylene chloride and water. The organic layer was dried over sodium sulfate, filtered and concentrated to provide the title product as a white solid, mp 145°-146° with decomposition (16 g, 53 mmol, 100% yield). 1H NMR (CDCl3): 7.31 (m, 5H), 7.02 (bs, 1H), 4.89 (dd, J=11, 2 Hz, 1H), 4.65 (s, 2H), 4.55 (d, J=10 Hz, 1H), 4.36 (q, J=7 Hz, 2H), 1.37 (t, J=7 Hz, 3H).

reactant | Ethyl diazoacetate | 114 mmol, 13 g | [N+](=[N-])=CC(=O)OCC | C4H6N2O2
reactant | N-benzylmaleimide | 53 mmol, 10 g | C(C1=CC=CC=C1)N1C(C=CC1=O)=O | C11H9NO2
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 250 ml | C(C)OCC | C4H10O
product | 5-Benzyl-1,3a,4,5,6,6a-hexahydro-4,6-dioxopyrrolo [3,4-c]pyrazole-3-carboxylic acid, ethyl ester | 100% yield | C(C1=CC=CC=C1)N1C(C2NN=C(C2C1=O)C(=O)OCC)=O | C15H15N3O4
